US05340820
1.1 g (0.0103 mole) of isobutyryl chloride in 10 ml of 1,2dimethoxyethane is added rapidly at a temperature between 15° and 20° C. to a mixture of 2.1 g (0.01 mole) of 4-methoxy benzenesulfonyl methylisonitrile in 10 ml of 1,2-dimethoxyethane in the presence of 0.65 g (0.0116 mole) of potassium hydroxide. The mixture is stirred for 3 h at about 20° C., cooled in an ice bath and water is added. An oil precipitates which solidifies in the presence of a little methanol. In this manner, 0.45 g of 5-isopropyl 4-(4-methoxy benzenesulfonyl)oxazole is obtained which is recrystallized from 5 ml of isopropanol to give 0.4 g, i.e. a yield of 14.2%. M.p.: 98°-100° C.

reactant | isobutyryl chloride | 0.0103 mole, 1.1 g | C(C(C)C)(=O)Cl | C4H7ClO
reactant | 4-methoxy benzenesulfonyl methylisonitrile | 0.01 mole, 2.1 g | COC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO3S
reactant | potassium hydroxide | 0.0116 mole, 0.65 g | [OH-].[K+]
reactant | water | O | H2O
solvent | 1,2dimethoxyethane | 10 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
product | 5-isopropyl 4-(4-methoxy benzenesulfonyl)oxazole | 0.45 g, yield of 14.2% | C(C)(C)C1=C(N=CO1)S(=O)(=O)C1=CC=C(C=C1)OC | C13H15NO4S
